datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[C:15]([C:14]([H:17])([H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])[H:8])([H:6])[H:7],9.16296
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([C:15]=[O:16])([H:17])([H:18])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][C:15]([C:14]([H:17])([H:18])[H:19])=[O:16],188.001
[C:0](=[C:1]=[C:2]([C:3]([H:8])([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])([H:6])[H:7].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:15]([C:14]([H:17])([H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])([H:6])[H:7],28.9951
[C:0]([C:1]([C:2]([O:3][O:4])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:14])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:12])([C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])[H:14])[H:13])([H:9])([H:10])[H:11],123.428
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])=[C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[H:15])([H:13])[H:14].[C:27]([C:28]([C:29]([H:34])([H:35])[H:36])[C:30]([H:37])([H:38])[H:39])([H:31])([H:32])[H:33]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:17])[H:18])[H:16])([C:5]([C:6]([H:19])([H:20])[H:21])[c:7]1[c:8]([H:22])[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]1[H:26])[C:28]([C:27]([H:31])([H:32])[H:33])([C:29]([H:34])([H:35])[H:36])[C:30]([H:37])([H:38])[H:39])[H:15])([H:13])[H:14],14.6022
[C:16](=[C:17]=[C:18]([H:20])[H:21])[H:19].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8]>>[H:9][C:16](=[C:17]=[C:18]([H:20])[H:21])[H:19].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:8],30.1248
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])([H:14])[H:15])([H:12])[H:13])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5]([H:14])([H:15])[C:6]1([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])[H:10])[H:9],56.1493
[C:0]([c:1]1[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]1[C:7](=[C:8]([H:16])[H:17])[H:15])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[c:1]2[c:2]([H:11])[c:3]([H:12])[c:4]([H:13])[c:5]([H:14])[c:6]2[C:7]1([C:8]([H:16])[H:17])[H:15],126.812856
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[O:10][H:11]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])[H:5].[H:4][O:10][H:11],14.35112
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[S:11][H:18])[H:14])([H:12])[H:13]>>[C:0](=[C:1]=[C:2]([H:5])[H:6])[H:4].[H:3][C:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10]([H:15])([H:16])[H:17])[S:11][H:18],59.4128
[C:0]([C:1]#[N:2])([H:3])([H:4])[H:5].[C:6]#[N:7]>>[C:0]([C:1]#[N:2])([H:4])[H:5].[H:3][C:6]#[N:7],8.368
[C:0]([C:1]([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:12])[H:13])[C:6]([O:7][O:8][H:19])([H:17])[H:18])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([C:2]([C:3]([O:4][O:5][H:16])([H:14])[H:15])([H:12])[H:13])[C:6]([H:17])([H:18])[O:7]1)([H:9])([H:10])[H:11].[O:8][H:19],40.1664
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14])[H:6],39.8317
[C:0]([C:1](=[N:2][H:7])[H:6])([H:3])([H:4])[H:5].[H:8]>>[C:0]([C:1]=[N:2][H:7])([H:3])([H:4])[H:5].[H:6][H:8],12.552
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([S:4][H:10])[H:6])[H:5].[C:11]([H:12])([H:13])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:5].[S:4]([H:10])[C:11]([H:12])([H:13])[H:14],30.1248
[C:0]([C:1]([C:2](=[O:3])[H:9])([H:7])[H:8])([H:4])([H:5])[H:6].[C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14]>>[C:0]([C:1]([C:2]=[O:3])([H:7])[H:8])([H:4])([H:5])[H:6].[H:9][C:10]([C:11](=[C:12]([H:16])[H:17])[H:15])([H:13])[H:14],35.31296
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[H:12][O:23],7.983072
[C:0](#[C:1][C:2]#[C:3][H:5])[H:4].[C:6](#[C:7][C:8]([C:9]([H:12])([H:13])[H:14])[H:11])[H:10]>>[C:0](=[C:1][C:2]#[C:3][H:5])([H:4])[C:8]([C:7]#[C:6][H:10])([C:9]([H:12])([H:13])[H:14])[H:11],27.7818
